US07157488B2
N-(2-(5-Methoxy-1-ethyl-1H-indol-3-yl)ethyl)-N-ethyl-3-phenyoxybenzylamine
Add acetaldehyde (0.080 mL; 0.77 mmol) to a solution of N-(2-(5-methoxy-1H-indol-3-yl)ethyl)-3-phenyoxybenzylamine (free base, 55.5 mg, 0.149 mmol) in dichloromethane (1 mL) followed by a suspension of sodium triacetoxyborohydride (64 mg; 0.30 mmol) in dichloromethane (1 mL). After 44 hours, quench by the addition of methanol (0.5 mL) and concentrate in a stream of nitrogen to give a residue. Dissolve the residue in 4 mL of 5% acetic acid in methanol and partially purify by passage through a 1 gm SCX column, eluting with 1 M ammonia in methanol to give a residue. Chromatograph the residue by preparative HPLC (C-18 column, flow rate of 20 ml/min, 5–90% water/acetonitrile over 12 min) to give the title compound: MS (ES+): m/e (M+1); HPLC: (10–90% water/acetonitrile over 10 min, Tr=5.25 min).

reactant | acetaldehyde | 0.77 mmol, 0.080 mL | C(C)=O | C2H4O
reactant | N-(2-(5-methoxy-1H-indol-3-yl)ethyl)-3-phenyoxybenzylamine | 0.149 mmol, 55.5 mg | COC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OC1=CC=CC=C1 | C24H24N2O2
reactant | sodium triacetoxyborohydride | 0.30 mmol, 64 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water acetonitrile | O.C(C)#N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | N-(2-(5-Methoxy-1-ethyl-1H-indol-3-yl)ethyl)-N-ethyl-3-phenyoxybenzylamine | COC=1C=C2C(=CN(C2=CC1)CC)CCN(CC)CC1=CC(=CC=C1)OC1=CC=CC=C1 | C28H32N2O2
